US04143144
2-Chloro-6-(2-phenoxyethoxy)-4-(trichloromethyl)pyridine:
A solution was prepared by dissolving 5.28 grams (0.11 mole) of sodium hydride (as a 50 percent oil mixture) in 15.20 grams (0.11 mole) of 2-phenoxyethanol. To this solution was added, over a 30 minute period, 26.54 grams (0.1 mole) of 2,6-dichloro-4-(trichloromethyl)pyridine. The mixture was heated and refluxed for 4 hours. The reaction mixture was diluted with 700 ml of water and extracted with methylene chloride. The extract was washed with water, dried with sodium sulfate and filtered. The methylene chloride and other volatile impurities were removed by distillation under reduced pressure. The 2-chloro-6-(2-phenoxyethoxy)-4-(trichloromethyl)pyridine product which was recovered distilled at 95° C. under0.05 mm of pressure. The product was recovered in a yield of 27 grams (73.5 percent of theoretical). The product solidified upon standing at 60°-62° C. Upon analysis, the product was found to have carbon, hydrogen, nitrogen, and chlorine contents of 46.22, 3.15, 3.94 and 37.92 percent, respectively, as compared with the theoretical contents of 45.81, 3.02, 3.82 and 38.64 percent, respectively, calculated for the above named compound.

reactant | sodium hydride | 0.11 mole, 5.28 grams | [H-].[Na+]
reactant | 2-phenoxyethanol | 0.11 mole, 15.20 grams | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | 2,6-dichloro-4-(trichloromethyl)pyridine | 0.1 mole, 26.54 grams | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)Cl | C6H2Cl5N
solvent | water | 700 ml | O | H2O
product | 2-Chloro-6-(2-phenoxyethoxy)-4-(trichloromethyl)pyridine | ClC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OCCOC1=CC=CC=C1 | C14H11Cl4NO2
